US04985444
A mixture of 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)-2-thioxopropionic acid (3.74 g), hydroxylamine hydrochloride (2.63 g), 85% potassium hydroxide (2.50 g) and 80% aqueous ethanol (22.4 ml) was refluxed for 3 hours. After cooling, to the reaction mixture was added water (40 ml) and the resulting precipitates were filtered off. The filtrate was washed with methylene chloride (20 ml) twice, acidified with 10% aqueous hydrochloric acid (pH ≈2), and extracted with ethyl acetate (20 ml) twice. The organic layer was washed with water (10 ml) and a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was removed to give 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)-2-hydroxyiminopropionic acid (2.60 g).

reactant | 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)-2-thioxopropionic acid | 3.74 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1CC(C(=O)O)=S | C16H12N2O2S
reactant | hydroxylamine hydrochloride | 2.63 g | Cl.NO
reactant | potassium hydroxide | 2.50 g | [OH-].[K+]
reactant | ethanol | 22.4 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)-2-hydroxyiminopropionic acid | 2.60 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1CC(C(=O)O)=NO | C16H13N3O3
